US08957062B2
Step B: 2-(4-hydroxy-2-methylphenyl)-N,N-dimethylacetamide
2-[4-(benzyloxy)-2-methylphenyl]-N,N-dimethylacetamide (680 mg, 2.40 mmol) was dissolved in ethanol (4 ml). and palladium hydroxide on carbon (20%) (169 mg, 0.240 mmol) added. The mixture was stirred under an atmosphere of hydrogen gas at RT overnight. The mixture was filtered and the filtrate concentrated under reduced pressure to afford the title compound. LC/MS (m/z): 194 (M+H)+.

reactant | 2-[4-(benzyloxy)-2-methylphenyl]-N,N-dimethylacetamide | 2.40 mmol, 680 mg | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)CC(=O)N(C)C)C | C18H21NO2
solvent | ethanol | 4 ml | C(C)O | C2H6O
catalyst | palladium hydroxide on carbon | 0.240 mmol, 169 mg | [OH-].[OH-].[Pd+2]
product | 2-(4-hydroxy-2-methylphenyl)-N,N-dimethylacetamide | OC1=CC(=C(C=C1)CC(=O)N(C)C)C | C11H15NO2
